US07786132B2
(i) 2-Chloro-4-(5-iodothiophen-2-yl)pyrimidine
nBuLi (16 mL, 1.6 M solution in hexane, 25 mmol) was added to a stirred solution of 2,5-diiodothiophene (7.0 g, 21 mmol) in THF (80 mL) at −50° C. The solution was stirred for 10 min at −50° C. before 2.9 g (25 mmol) of 2-chloropyrimidine was added. The reaction solution was stirred for 1 h at −20° C., then cooled to −50° C. and quenched by addition of 2 mL of AcOH in 10 mL of MeOH. Solid 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (10.4 g, 46 mmol) was added and the reaction solution was warmed to 0° C. and stirred for 1 h. The reaction mixture was then poured into 100 mL of a 0.5 M solution of sodium ascorbate, diluted with 250 mL of 1 M aqueous Na2CO3 and the crude product removed by filtration and washed repeatedly with water. The residue was azeotroped with toluene to give the product. MS (M+H)+ 323.

reactant | nBuLi | 25 mmol, 1.6 M, 16 mL | [Li]CCCC
reactant | 2,5-diiodothiophene | 21 mmol, 7.0 g | IC=1SC(=CC1)I | C4H2I2S
reactant | 2-chloropyrimidine | 25 mmol, 2.9 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 46 mmol, 10.4 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | Na2CO3 | 1 M, 250 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-Chloro-4-(5-iodothiophen-2-yl)pyrimidine | ClC1=NC=CC(=N1)C=1SC(=CC1)I | C8H4ClIN2S
